US04120690
Preparation of 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole
A solution of 31.1 g (0.096 mole) of 4-bromo-3'-trifluoromethylacetoacetanilide in 130 ml of absolute ethanol was carefully mixed with 8.4 g (0.11 mole) of thiourea. As the thiourea dissolved, the temperature of the solution increased from 23° to 38°. After the exothermic reaction had subsided, the solution was refluxed for four hours and poured into 130 ml of water. A small quantity of insoluble material was removed by filtration and the filtrate was made basic (pH 9) with ammonium hydroxide. Stirring and cooling yielded a crystalline solid which was collected. There was obtained 19 g (65.7%) of dry product, m.p. 116°-18°. N.M.R. (dimethyl-d6 sulfoxide) ∂ 3.4 (CH2), 6.3 hetero-aromatic), 6.8 (NH2), 7.3-8.0 (aromatic), 10.3 (HNC=O).

reactant | 4-bromo-3'-trifluoromethylacetoacetanilide | 0.096 mole, 31.1 g | BrCC(CC(=O)NC1=CC(=CC=C1)C(F)(F)F)=O | C11H9BrF3NO2
reactant | thiourea | 0.11 mole, 8.4 g | NC(=S)N | CH4N2S
reactant | water | 130 ml | O | H2O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 19 g, 65.7% | NC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O | C12H10F3N3OS
